US07776847B2
A mixture of N-(2-(5-nitrobenzo[d]isothiazol-3-ylamino)ethyl)picolinamide (100 mg, 0.29 mmol), iron powder (100 mg, 1.75 mmol) and ammonium chloride (31 mg, 0.29 mmol) in ethanol (5 mL) and water (2.5 mL) was allowed to stir at room temperature for 15 min. The mixture was then heated at 80° C. for 20 min. The reaction mixture was cooled to room temperature and passed through a plug of Celite. The filtrate was concentrated under reduced pressure and the resulting residue was diluted with water. The aqueous solution was extracted several times with ethyl acetate and then concentrated under reduced pressure. Purification by column chromatography, on silica gel, eluting with a mixture of 2% methanol in dichloromethane, and selected fractions were combined and concentrated under reduced pressure to yield N-(2-(5-aminobenzo[d]isothiazol-3-ylamino)ethyl)picolinamide (95 mg) as a pale yellow solid. 1H NMR (300 MHz, CDCl3): 8.56 (d, 1H), 8.25 (d, 1H), 8.20 (d, 2H), 7.80 (t, 1H), 7.40 (m, 1H), 7.18 (d, 1H), 6.01 (s, 1H), 5.98 (d, 1H), 4.80 (broad s, 1H), 3.70 (m, 2H), 3.40 (m, 2H). MW=313 confirmed by LC-MS, tr=9.21 min (Method Y) MH+=314.

reactant | N-(2-(5-nitrobenzo[d]isothiazol-3-ylamino)ethyl)picolinamide | 0.29 mmol, 100 mg | [N+](=O)([O-])C=1C=CC2=C(C(=NS2)NCCNC(C2=NC=CC=C2)=O)C1 | C15H13N5O3S
reactant | ammonium chloride | 0.29 mmol, 31 mg | [Cl-].[NH4+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 2.5 mL | O | H2O
catalyst | iron | 1.75 mmol, 100 mg | [Fe] | Fe
product | N-(2-(5-aminobenzo[d]isothiazol-3-ylamino)ethyl)picolinamide | 95 mg | NC=1C=CC2=C(C(=NS2)NCCNC(C2=NC=CC=C2)=O)C1 | C15H15N5OS
